US04439609
Cysteamine hydrochloride (3.75 g) was added to a stirred solution of sodium ethoxide (prepared from 2.83 g sodium) in ethanol (200 ml) and the mixture was cooled to less than 10°. 2-Chloromethyl-4-dimethylaminomethylpyridine dihydrochloride (7.3 g) was added portionwise and the solution was stirred for 1 hour. Water (200 ml) was added, the pH was adjusted to ca. 4 with hydrochloric acid and the volume was reduced to ca. 100 ml. The solution was extracted with chloroform, the aqueous phase was basified to pH 12 and extracted with chloroform to give 2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamine (4.7 g) as an oil.

reactant | Cysteamine hydrochloride | 3.75 g | Cl.NCCS
reactant | sodium ethoxide | 2.83 g | [O-]CC.[Na+]
reactant | 2-Chloromethyl-4-dimethylaminomethylpyridine dihydrochloride | 7.3 g | Cl.Cl.ClCC1=NC=CC(=C1)CN(C)C
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | Water | 200 ml | O | H2O
product | 2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamine | 4.7 g | CN(C)CC1=CC(=NC=C1)CSCCN | C11H19N3S
